US07786129B2
3-{4-[4-(4-Chlorophenyl)-piperazin-1-yl]-butyl}-3-isobutyl-7-methyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-isobutyl-7-methyl-1,3-dihydro-2H-indol-2-one and 1-(4-chlorophenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-isobutyl-7-methyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=C(C=CC=C12)C)=O)CC(C)C | C17H24ClNO
reactant | 1-(4-chlorophenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 3-{4-[4-(4-Chlorophenyl)-piperazin-1-yl]-butyl}-3-isobutyl-7-methyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC1=CC=C(C=C1)N1CCN(CC1)CCCCC1(C(NC2=C(C=CC=C12)C)=O)CC(C)C | InChI=1S/C27H36ClN3O.ClH/c1-20(2)19-27(24-8-6-7-21(3)25(24)29-26(27)32)13-4-5-14-30-15-17-31(18-16-30)23-11-9-22(28)10-12-23;/h6-12,20H,4-5,13-19H2,1-3H3,(H,29,32);1H
